US07517873B2
To a solution of 0.4 g (0.0017 mole) of (R)-9-chloro-2,3,3a,4-tetrahydro-1H,6H-6,8,10,10b-tetraaza-benzo[e]azulen-5-one (VI-102) in 10 mL of dimethylformamide was added 1.1 g (0.0034 mole) of cesium carbonate, followed by 0.32 mL (0.0051 mole) of iodomethane. After stirring overnight, the mixture was filtered and the filtrate concentrated under reduced pressure. Purification of the residue by silica gel chromatography, eluting with hexanes-ethyl acetate (40:60-0:100) gave 0.35 g of (R)-9-chloro-6-methyl-2,3,3a,4-tetrahydro-1H,6H-6,8,10,10b-tetraaza-benzo[e]azulen-5-one (VII-102) as a light yellow solid.

reactant | (R)-9-chloro-2,3,3a,4-tetrahydro-1H,6H-6,8,10,10b-tetraaza-benzo[e]azulen-5-one | 0.0017 mole, 0.4 g | ClC=1N=CC2=C(N3CCC[C@@H]3CC(N2)=O)N1 | C10H11ClN4O
reactant | cesium carbonate | 0.0034 mole, 1.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 0.0051 mole, 0.32 mL | IC | CH3I
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (R)-9-chloro-6-methyl-2,3,3a,4-tetrahydro-1H,6H-6,8,10,10b-tetraaza-benzo[e]azulen-5-one | 0.35 g | ClC=1N=CC2=C(N3CCC[C@@H]3CC(N2C)=O)N1 | C11H13ClN4O
